US20010001799A1
2.5 g of 2-hydroxy-4-methoxybenzaldehyde, 6.8 g of K2CO3, 3.3 ml of chloroethanol and 33 ml of DMSO were heated for 8 hrs. to 80° C. Extraction with ethyl acetate and chromatography on silica gel with methylene chloride-acetone gave 2.1 g of 2-(2-hydroxy-ethoxy)-4-methoxy-benzaldehyde, m.p. 94° C., MS: 196 (M)+.

reactant | 2-hydroxy-4-methoxybenzaldehyde | 2.5 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | K2CO3 | 6.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroethanol | 3.3 ml | ClC(C)O | C2H5ClO
solvent | DMSO | 33 ml | CS(=O)C | C2H6OS
product | 2-(2-hydroxy-ethoxy)-4-methoxy-benzaldehyde | 2.1 g | OCCOC1=C(C=O)C=CC(=C1)OC | C10H12O4
